US07326506B2
9-Ethyl-3-Carbazolecarboxaldehyde N-(2,3-Epoxypropyl)-N-Phenylhydrazone.
A mixture of potassium hydroxide powder (KOH, 85%, 198 g, 3 mol,) and anhydrous sodium sulfate (Na2SO4, 51 g, 0.369 mol) was added in three stages to a mixture of 9-ethyl-3-carbazolecarboxaldehyde N-phenylhydrazone (313.4 g, 1 mol) and epichlorohydrin (1.5 mol), while keeping the reaction mixture at 20-25° C. In the first stage, 33 g of Na2SO4 and 66 g of KOH were added initially. In the second stage, 9.9 g of Na2SO4 and 66 g of KOH were added 1 hour into the reaction. In the third stage, 9.9 g of Na2SO4 and 66 g of KOH were added 2 hours into the reaction. The reaction mixture was stirred vigorously at 35-40° C. until the starting hydrazone disappeared (approximately 3-4 hours). Subsequently, the mixture was cooled to room temperature and any remaining solids were removed by filtration. The liquid organic phase was treated with diethyl ether and washed with distilled water until the washed water had a neutral pH. The organic layer was dried over anhydrous magnesium sulfate, treated with activated charcoal, and filtered. The solvent and excess epichlorohydrin were removed by evaporation in a rotary evaporator. The residue was recrystallized from a mixture of toluene and 2-propanol in a 1:1 volume ratio. The crystals formed upon standing were filtered off and washed with 2-propanol to give 290 g of product (78.5% yield). The melting point of the product was found to be 136-137° C. (recrystallized from toluene). The 1H-NMR spectrum (250 MHz) of the product in CDCl3 was characterized by the following chemical shifts (δ, ppm): 8.35 (s, 1H, 4-HHt); 8.14 (d, J=7.8 Hz, 1H, 1-HHt); 7.93 (d, J=7.6 Hz, 1H, 2-HHt); 7.90 (s, 1H, CH═N); 7.54-7.20 (m, 8H, Ph, Ht); 6.96 (t, J=7.2 Hz, 1H, 4-HPh); 4.37 (m, 3H, CH2CH3, one of the NCH2 protons); 4.04 (dd, J1=4.3 Hz, J2=16.4 Hz, 1H, next of the NCH2 protons); 3.32 (m, 1H, CH); 2.88 (dd, 1H, part of the ABX system, cis-HA of CH2O, JAX=2.6 Hz, JAB=4.9 Hz); 2.69 (dd, 1H, part of the ABX system, trans-HB of CH2O, JBX=4.0 Hz); and 1.44 (t, J=7.2 Hz, 3H, CH3). An elemental analysis yielded the following results in weight percent C 78.32, H 6.41, and N 11.55, which compared with calculated values for C24H23N3O in weight percent of C 78.02, H 6.28, and N 11.37.

reactant | potassium hydroxide | 3 mol, 198 g | [OH-].[K+]
reactant | sodium sulfate | 0.369 mol, 51 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 9-ethyl-3-carbazolecarboxaldehyde N-phenylhydrazone | 1 mol, 313.4 g | C1(=CC=CC=C1)NN=CC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C21H19N3
reactant | epichlorohydrin | 1.5 mol | C(Cl)C1CO1 | C3H5ClO
reactant | Na2SO4 | 33 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | KOH | 66 g | [OH-].[K+]
reactant | KOH | 66 g | [OH-].[K+]
reactant | KOH | 66 g | [OH-].[K+]
catalyst | Na2SO4 | 9.9 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
catalyst | Na2SO4 | 9.9 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
product | 9-Ethyl-3-Carbazolecarboxaldehyde N-(2,3-Epoxypropyl)-N-Phenylhydrazone | 290 g, 78.5% yield | O1C(CN(N=CC=2C=CC=3N(C4=CC=CC=C4C3C2)CC)C2=CC=CC=C2)C1 | C24H23N3O
